US04863958
A mixture of 2-(p-methoxybenzoyl)-3-methyl-4-benzyloxy-7-propylbenzofuran (0.10 gm, 0.24 mmole) in ethanol was hydrogenated in a Parr hydrogenator in the presence of 10% palladium on charcoal at 40 psi for a period of 7 hours. The catalyst was filtered off, washed with some ethanol, and the filtrate was concentrated in vacuo to yield 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-7-propylbenzofuran.

reactant | 2-(p-methoxybenzoyl)-3-methyl-4-benzyloxy-7-propylbenzofuran | 0.24 mmole, 0.10 gm | COC1=CC=C(C(=O)C=2OC3=C(C2C)C(=CC=C3CCC)OCC3=CC=CC=C3)C=C1 | C27H26O4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-(p-methoxybenzyl)-3-methyl-4-hydroxy-7-propylbenzofuran | COC1=CC=C(CC=2OC3=C(C2C)C(=CC=C3CCC)O)C=C1 | C20H22O3
